US05073629
Trifluoroacetic acid (1 ml) was added to a solution of 2-dimethylamino-4,4-diphenyl-9-decene-5-one (270 mg) in methanol (5 ml) to adjust the pH to 2.0. The solution was rotary evaporated, and the residue was taken up in methanol. A gentle stream of ozone was passed through the solution at -78° C., until the color turned to sky blue. The reaction was warmed to -20° C., and dimethyl sulfide (3 ml) was added. Rotary evaporation of the solution gave a crude material which was flash-chromatographed over silica gel. Elution with chloroform/methanol (30:1) yielded 80 mg of 2-dimethylamino-4,4-diphenyl-5-oxo-nonanal.

reactant | Trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-dimethylamino-4,4-diphenyl-9-decene-5-one | 270 mg | CN(C(C)CC(C(CCCC=C)=O)(C1=CC=CC=C1)C1=CC=CC=C1)C | C24H31NO
reactant | ozone | O=[O+][O-] | O3
reactant | dimethyl sulfide | 3 ml | CSC | C2H6S
solvent | methanol | 5 ml | CO | CH4O
product | 2-dimethylamino-4,4-diphenyl-5-oxo-nonanal | 80 mg | CN(C(C=O)CC(C(CCCC)=O)(C1=CC=CC=C1)C1=CC=CC=C1)C | C23H29NO2
